US04652575
Similar to the procedure of example 9, from a mixture of 5.86 g (21.43 mmol) N-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)thiourea in 60 ml ethanol and 5.51 g (21.43 mmol) bromomethyl-(3,4-ethylenedioxy)phenylketone in 45 ml tetrahydrofurane, 5.07 g 2-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)amino-4-(3,4-ethylenedioxy)-phenyl-thiazole was isolated. Red-brown oil, Rf=0.25 in dichloromethane/methanol 9:1.

reactant | N-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)thiourea | 21.43 mmol, 5.86 g | CN(C)CC1=CC=C(O1)CSCCNC(=S)N | C11H19N3OS2
reactant | bromomethyl-(3,4-ethylenedioxy)phenylketone | 21.43 mmol, 5.51 g | BrCC1=C(C=CC2=C1OCCO2)C(=O)C2=C(C1=C(C=C2)OCCO1)CBr | C19H16Br2O5
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | tetrahydrofurane | 45 ml | O1CCCC1 | C4H8O
product | 2-(2-(((5-(dimethylamino)methyl-2-furanyl)methyl)thio)ethyl)amino-4-(3,4-ethylenedioxy)-phenyl-thiazole | 5.07 g | CN(C)CC1=CC=C(O1)CSCCNC1=C(C=CC2=C1OCCO2)C=2SC=CN2 | C21H25N3O3S2
